US05434186
Preparation of 4-[[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester
A mixture of 1.69 g (3.58 mmol) of 4-(5-bromopentyloxy)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic acid ethyl ester from the preceding example, 0.738 g (3.58 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, 2.07 g (14.98 mmol) of anhydrous potassium carbonate, and 37.5 mL of 2-butanone was stirred and refluxed for 18.5 hr. After being cooled to room temperature, the mixture was filtered through anhydrous magnesium sulfate and the solids were washed thoroughly with ethyl acetate. The filtrate and washes were combined and concentrated in vacuo and the crude product was purified by flash chromatography on 250 g of silica gel, eluting with hexane-ethyl acetate (4:1). There was obtained 1.93 g (90.1%) of the title compound as a colorless oil.

reactant | 4-(5-bromopentyloxy)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic acid ethyl ester | 3.58 mmol, 1.69 g | C(C)OC(CCCCC1=CC(=C(C=C1)OCCCCCBr)CCC(=O)OCC)=O | C23H35BrO5
reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 3.58 mmol, 0.738 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | potassium carbonate | 14.98 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 37.5 mL | CC(CC)=O | C4H8O
product | 4-[[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester | 1.93 g, 90.1% | C(C)OC(CCCCC1=CC(=C(C=C1)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)OCC)=O | C35H48O8
